US04990511
To solution (20 ml) of 4-(4-fluorobenzoyl) piperidine. hydrochloride (670 mg) and 2,4-dibenzoyloxyphenylacetic acid (1.0 g) in N,N-dimethylformamide are added triethylamine (1.2 ml) and diethyl cyanophosphate (561 mg) and the mixture is stirred at room temperature for 10 minutes. To the reaction solution is added water and the mixture stirred for 20 minutes. The product is extracted with dichloromethane. The dichloromethane layer is washed with water and dried over anhydrous sodium sulfate, and then the solvent is distilled off. The residue is purified by silica gel column chromatography. The crude product is obtained from a fraction eluted with dichloromethane-ethyl acetate mixture (2:1). Recrystallization of the product from dichloromethane-diethyl ether mixture yields 1-(2,4-dibenzyloxyphenylacetyl)-4-(4-fluorobenzoyl)piperidine (1.25 g) in the colorless columnar crystal form. Melting point 158°-159° C.

reactant | 4-(4-fluorobenzoyl) piperidine. hydrochloride | 20 ml, 670 mg | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 2,4-dibenzoyloxyphenylacetic acid | 1.0 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC(=C1)OC(C1=CC=CC=C1)=O)CC(=O)O | C22H16O6
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 561 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2,4-dibenzyloxyphenylacetyl)-4-(4-fluorobenzoyl)piperidine | 1.25 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C34H32FNO4
